US06258827B1
A mixture of sodium borohydride (0.032 g, 0.85 mmol) and ethanol (5 mL) was stirred 10 min and then 1-(3-fluoro-4-triisopropylsilyloxyphenyl)-2-(4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl)-propan-1-one (0.454 g, 0.850 mmol in 10 mL of ethanol) was added. The reaction was stirred at ambient temperature overnight. The white precipitate which formed was collected by filtration to afford 0.245 g (54%) of (1R*, 2R*)-1-(3-fluoro-4-triisopropylsilyloxyphenyl)-2-(4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl)-propan-1-ol which had: NMR δ7.39 (ABq, Δv1-3=35.2 Hz, J=8.5 Hz, 4 H), 7.06 (dd, J=2, 11.5 Hz, 1 H), 6.96-6.82 (m, 2 H), 5.15 (s, 1 H), 4.18 (d, J=9.5 Hz, 1 H), 3.04 (dt, J=2.5, 11.5 Hz, 1 H), 2.78-2.67 (m, 1 H), 2.67-2.52 (m, 3 H), 2.12 (sym m, 2 H), 1.80 (distorted d, J=14 Hz, 2 H), 1.54 (s, 1 H), 1.36-1.19 (m, 3 H), 1.08 (d, J=7 Hz, 18 H), 0.80 (d, J=6.5 Hz, 3 H). The product also contained about 8% of the erythro diastereomer but was suitable for use without additional purification.

reactant | sodium borohydride | 0.85 mmol, 0.032 g | [BH4-].[Na+]
reactant | 1-(3-fluoro-4-triisopropylsilyloxyphenyl)-2-(4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl)-propan-1-one | 0.850 mmol, 10 mL, 0.454 g | FC=1C=C(C=CC1O[Si](C(C)C)(C(C)C)C(C)C)C(C(C)N1CCC(CC1)(O)C1=CC=C(C=C1)Cl)=O | C29H41ClFNO3Si
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-(3-fluoro-4-triisopropylsilyloxyphenyl)-2-(4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl)-propan-1-ol | FC=1C=C(C=CC1O[Si](C(C)C)(C(C)C)C(C)C)C(C(C)N1CCC(CC1)(O)C1=CC=C(C=C1)Cl)O | C29H43ClFNO3Si
